US04350817
4-Amino-1,2-Dihydro-2-Oxo-1,8-Naphthyridine-3-Carboxylic Acid Ethyl Ester
To a solution of 4.14 g. (0.18 g. atom) of sodium in 100 ml. of ethanol was added 28.8 g. (0.18 mole) of diethyl malonate. After stirring at room temperature for 5 minutes, 7.14 g. (0.06 mole) of 2-aminonicotinonitrile was added and the mixture was heated under reflux for 6 hours. The mixture was cooled and was diluted with 100 ml. of water and was acidified with conc. hydrochloric acid. On cooling, a precipitate was formed which was collected and was triturated with 1000 ml. of boiling ethanol. The mixture was filtered and the filtrate was cooled in ice to precipitate 2.9 g. of product, m.p. 264°-267° C. dec.

reactant | sodium | 0.18 g | [Na] | Na
reactant | diethyl malonate | 0.18 mole | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-aminonicotinonitrile | 0.06 mole | NC1=C(C#N)C=CC=N1 | C6H5N3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 4-Amino-1,2-Dihydro-2-Oxo-1,8-Naphthyridine-3-Carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1C(NC2=NC=CC=C2C1N)=O | C11H11N3O3
